US05236952
10 g of finely powdered 3,4-dimethoxy-5-nitroaniline are suspended in 15 ml of 12N hydrochloric acid and 40 ml of water, whereupon the suspension is stirring at 30° for 1 hour. Thereupon, 3.8 g of sodium nitrite dissolved in 20 ml of water are added dropwise thereto at -5° within 15 minutes. The solution is stirred at -5° for 30 minutes and the cold diazonium salt solution is added dropwise within 45 minutes to 100 ml of pyridine of 40°. The mixture is subsequently stirred at 70° for 1 hour. The reaction mixture is evaporated and the residue is taken up in 300 ml of ethyl acetate. It is extracted three times with 200 ml of 2N hydrochloric acid each time. The acidic-aqueous phase is adjusted to pH 9 with conc. ammonia and extracted with methylene chloride. The combined methylene chloride extracts are dried over sodium sulfate and evaporated, and the residue is chromatographed on 250 g of silica gel with ethyl acetate. After crystallization from methylene chloride/hexane there is obtained 2-(3,4-dimethoxy-5-nitrophenyl)pyridine of m.p. 89°-90°.

reactant | 3,4-dimethoxy-5-nitroaniline | COC=1C=C(N)C=C(C1OC)[N+](=O)[O-] | C8H10N2O4
reactant | sodium nitrite | 3.8 g | N(=O)[O-].[Na+]
reactant | pyridine | N1=CC=CC=C1 | C5H5N
solvent | hydrochloric acid | 12N, 15 ml | Cl | ClH
solvent | water | 40 ml | O | H2O
solvent | water | 20 ml | O | H2O
product | 2-(3,4-dimethoxy-5-nitrophenyl)pyridine | COC=1C=C(C=C(C1OC)[N+](=O)[O-])C1=NC=CC=C1 | C13H12N2O4
